US07655679B2
280 mg 4-[2-(Benzooxazol-2-yl-butyl-amino)-ethyl]-N-hydroxy-benzamidine were dissolved in 5 ml dichloromethane. 78 μl pyridine and 120 μl phenylchloroformate were added and the mixture stirred at room temperature for ten minutes. The mixture was diluted by the addition of 15 ml acetonitrile and 115 μl ml 1,8-Diazabicyclo[5.4.0]undec-7-ene were added. The mixture was stirred at room temperature for 10 minutes. The mixture was evaporated in vacuo and the resulting crude material was purified by reversed phase HPLC to obtain 105 mg 3-{4-[2-(Benzooxazol-2-yl-butyl-amino)-ethyl]-phenyl}-4H-[1,2,4]oxadiazol-5-one as an amorphous lyophilisate.

reactant | 4-[2-(Benzooxazol-2-yl-butyl-amino)-ethyl]-N-hydroxy-benzamidine | 280 mg | O1C(=NC2=C1C=CC=C2)N(CCC2=CC=C(C(=N)NO)C=C2)CCCC | C20H24N4O2
reactant | pyridine | 78 μl | N1=CC=CC=C1 | C5H5N
reactant | phenylchloroformate | 120 μl | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 115 μl | N12CCCCCC2=NCCC1 | C9H16N2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 3-{4-[2-(Benzooxazol-2-yl-butyl-amino)-ethyl]-phenyl}-4H-[1,2,4]oxadiazol-5-one | 105 mg | O1C(=NC2=C1C=CC=C2)N(CCC2=CC=C(C=C2)C2=NOC(N2)=O)CCCC | C21H22N4O3
